US06884801B1
2-Amino-N-sec-butylbenzamide (prepared from sec-butylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N-(sec-butyl)-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzamide.

reactant | 2-Amino-N-sec-butylbenzamide | NC1=C(C(=O)NC(C)CC)C=CC=C1 | C11H16N2O
reactant | sec-butylamine | C(C)(CC)N | C4H11N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N-(sec-butyl)-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzamide | C(C)(CC)NC(C1=C(C=CC=C1)NCC=1NCCN1)=O | C15H22N4O
